US07279494B2
V. (racemic)benzyl 3-fluoro-4-[(1S,5R,6R)-2-oxo-3-oxabicyclo[3.1.0]hex-6-yl]phenylcarbamate
A solution of (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate (2.26 g, 6.12 mmol) in toluene (125 mL) was added dropwise over 14 h to a refluxing solution of bis-(N-t-butylsalicylaldiminato)copper(II) (0.254 g, 0.61 mmol, prepared as described by R. G. Charles, J. Org. Chem. 1957, 22, 677) in 125 mL of toluene. After the addition was complete, the reaction mixture was heated another hour at reflux, then cooled, filtered and concentrated. The crude oil was purified by column chromatography (0-0.5% MeOH-DCM) to provide the title compound as a yellow solid.

reactant | (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate | 6.12 mmol, 2.26 g | [N+](=[N-])=CC(=O)OC\C=C\C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C19H16FN3O4
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | (racemic)benzyl 3-fluoro-4-[(1S,5R,6R)-2-oxo-3-oxabicyclo[3.1.0]hex-6-yl]phenylcarbamate | FC=1C=C(C=CC1[C@@H]1[C@H]2COC([C@@H]12)=O)NC(OCC1=CC=CC=C1)=O | C19H16FNO4
